US06420359B1
2-Chloro-11-cyclopropyl-5,11-dihydro-5-methyl-8-{2-{(1-oxido-4-quinolinyl)oxy}ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one
Solid mCPBA (177 mg, 0.82 mmol) was added to a solution of 2-chloro-11-cyclopropyl-5,11-dihydro-5-methyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (143 mg, 0.30 mmol) in CH2Cl2 (3 mL) and THF (3 mL). The mixture was stirred at room temperature for 14 h then was concentrated under reduced pressure. The residue was dissolved in EtOAc (50 mL), the solution was successively washed with aqueous 10% Na2S2O3 (3×10 mL), aqueous saturated NaHCO3 (3×10 mL) and brine (10 mL), dried (MgSO4), filtered and concentrated under reduced pressure. The residue was partially purified by flash chromatography (EtOAc:MeOH, 95:5 to CH2Cl2:MeOH, 9:1). The impure compound was further purified by reverse phase HPLC (CombiPrep ADS-AQ 50×20 mm, 5 μ, 120 A, 5-100% MeCN+0.10% TFA/water+0.10% TFA in 25 min). The pure fractions were treated with aqueous saturated NaHCO3, extracted with EtOAc and the solution was dried (MgSO4), filtered and concentrated under reduced pressure to give the title compound (28.3 mg, 19%) as a white solid: MS (ESI) m/z 488/490 (MH)+.

reactant | mCPBA | 0.82 mmol, 177 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 2-chloro-11-cyclopropyl-5,11-dihydro-5-methyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 0.30 mmol, 143 mg | ClC=1C=CC=2N(C(C3=C(N(C2N1)C1CC1)N=CC(=C3)CCOC3=CC=NC1=CC=CC=C31)=O)C | C26H22ClN5O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-Chloro-11-cyclopropyl-5,11-dihydro-5-methyl-8-{2-{(1-oxido-4-quinolinyl)oxy}ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one | 28.3 mg, 19% | ClC=1C=CC=2N(C(C3=C(N(C2N1)C1CC1)N=CC(=C3)CCOC3=CC=[N+](C1=CC=CC=C31)[O-])=O)C | C26H22ClN5O3
